US06673804B1
6-Methyl-1-(2-trimethylsilyl)ethoxymethylpyrimidine-2,4-dione
In a similar manner to the procedures described in Reference Example 3, reactions were carried out using 6-methylpyrimidine-2,4-dione, instead of pyrimidine-2,4-dione, and using 2-(trimethylsilyl)ethoxymethyl chloride, instead of benzyloxymethyl chloride, to give the title compound (yield 56%) as a white powder.

reactant | 6-methylpyrimidine-2,4-dione | CC1=CC(NC(N1)=O)=O | C5H6N2O2
reactant | pyrimidine-2,4-dione | N1C(NC(C=C1)=O)=O | C4H4N2O2
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | C[Si](CCOCCl)(C)C | C6H15ClOSi
product | benzyloxymethyl chloride | C(C1=CC=CC=C1)OCCl | C8H9ClO
